US05521179
2-(3-Methylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
Using a procedure similar to that described above under Example 49.j. for the basic hydrolysis of the analogous 3-(N-trifluoroacetylamino) compound to the 3-amino-compound, but using the following extractive work-up, the title compound was prepared from 2-[3-(N-trifluoroacetyl-N-methylamino)-2-oxo-6-phenyl -1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl -2-oxopropyl)acetamide. On completion of hydrolysis, ethyl acetate and brine were added. The organic phase was separated, washed (brine), dried (MgSO4), and evaporated. The resultant solid was triturated with diethyl ether, chromatographed, eluting with dichloromethane:methanol (96:4), and dried overnight under vacuum to give the title product as a white solid; TLC: Rf =0.20, dichloromethane:methanol (96:4); MS: m/z=410(M+1).

reactant | 2-[3-(N-trifluoroacetyl-N-methylamino)-2-oxo-6-phenyl -1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl -2-oxopropyl)acetamide | FC(C(=O)N(C)C=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O)(F)F | C22H21F6N3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 2-(3-Methylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | CNC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C20H22F3N3O3
